US04312876
Cis-1-ethoxycarbonyl-3-phenyl-4-piperidinol
To a solution of 7.34 g of sodium borohydride in 315 ml of denatured ethanol is added, dropwise with stirring under nitrogen over a 30-minute period, a solution of 48.0 g of 1-ethoxycarbonyl-3-phenyl-4-piperidone in 485 ml of denatured ethanol, keeping the temperature below 10° C. during the addition. After stirring overnight at room temperature, 1200 ml of saturated sodium chloride is added. After stirring for one hour 500 ml of 2 N hydrochloric acid is cautiously added. The mixture is extracted with ether (3×600 ml). The solvent is removed in vacuo from the organic extracts and the residue is partitioned between ether (1200 ml) and saturated sodium chloride solution (600 ml). After drying the ether phase overnight over anhydrous sodium sulfate, filtration and concentration of the filtrate affords an orange gum. Separation of the isomeric mixture by preparative high pressure liquid chromatography using 40% ethyl acetate/hexane as solvent affords the cis-isomer as clear yellow gum in which crystals eventually formed upon standing. The gum is triturated with a mixture of petroleum ether containing a little ether. The colorless solid is filtered, washed and dried to afford the cis-isomer mp 54.5°-57.5° C.

reactant | sodium borohydride | 7.34 g | [BH4-].[Na+]
reactant | 1-ethoxycarbonyl-3-phenyl-4-piperidone | 48.0 g | C(C)OC(=O)N1CC(C(CC1)=O)C1=CC=CC=C1 | C14H17NO3
reactant | sodium chloride | 1200 ml | [Cl-].[Na+]
reactant | hydrochloric acid | 2 N, 500 ml | Cl | ClH
solvent | ethanol | 315 ml | C(C)O | C2H6O
solvent | ethanol | 485 ml | C(C)O | C2H6O
product | Cis-1-ethoxycarbonyl-3-phenyl-4-piperidinol | C(C)OC(=O)N1C[C@H]([C@H](CC1)O)C1=CC=CC=C1 | C14H19NO3
